US06458798B1
Ethyl-2-[(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)amino]-4-methylpentanoate
A mixture of 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine (117 mg, 0.64 mmol), triethylamine (259 mg, 2.56 mmol), dl-leucine ethyl ester hydrochloride (250 mg, 1.28 mmol) and n-butanol (2 ml) was reacted for 6 hours at 80-90° C. According to the post-treatment of Example 1, the object compound was obtained (104.3 mg, 72.1%).

reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine | 0.64 mmol, 117 mg | ClC1=NC(=NC=2CCCCC12)N | C8H10ClN3
reactant | triethylamine | 2.56 mmol, 259 mg | C(C)N(CC)CC | C6H15N
reactant | dl-leucine ethyl ester hydrochloride | 1.28 mmol, 250 mg | Cl.C(C)OC(C(N)CC(C)C)=O
solvent | n-butanol | 2 ml | C(CCC)O | C4H10O
product | Ethyl-2-[(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)amino]-4-methylpentanoate | C(C)OC(C(CC(C)C)NC1=NC(=NC=2CCCCC12)N)=O | C16H26N4O2
